US06924400B2
(c) 1-[4-(tert-Butyldimethylsilanyloxy)-3-ethylphenyl]propan-1-ol
11.9 g (38 mmol) of (4-bromo-2-ethylphenoxy)-tert-butyldimethylsilane are placed in 200 ml of THF in a round-bottomed flask and under a stream of nitrogen. The reaction medium is cooled to −78° C. and 16.6 ml (41 mmol) of n-butyllithium (2.5 M/THF) are added dropwise. 30 minutes later, 3.2 ml (45 mmol) of propionaldehyde are added dropwise. The medium is stirred for 3 hours at −78° C. It is then poured into saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then evaporated. 11.1 g (100%) of the expected product are obtained in the form of a colorless oil.

reactant | (4-bromo-2-ethylphenoxy)-tert-butyldimethylsilane | 38 mmol, 11.9 g | BrC1=CC(=C(O[Si](C)(C)C(C)(C)C)C=C1)CC | C14H23BrOSi
reactant | n-butyllithium | 41 mmol, 2.5 M, 16.6 ml | C(CCC)[Li]
reactant | propionaldehyde | 45 mmol, 3.2 ml | C(CC)=O | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-[4-(tert-Butyldimethylsilanyloxy)-3-ethylphenyl]propan-1-ol | 11.1 g, 100% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(CC)O)CC | C17H30O2Si
